US08114886B2
5-[[(4-Chlorophenyl)sulfonyl](2,5-difluorophenyl)methyl]-N,4-dimethylpyridine-2-carboxamide
To a solution of 5-[[(4-chlorophenyl)sulfonyl](2,5-difluorophenyl)methyl]-4-methylpyridine-2-carboxylic acid (88 mg, 0.20 mmol) in methylene chloride (2 ml), methylamine hydrochloride (15 mg, 0.22 mmol), 1-hydroxybenzotriazole (30 mg, 0.22 mmol), 4-methylmorpholine (0.048 ml, 0.44 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (42 mg, 0.22 mmol) were added at room temperature. After stirring for 5 hours at room temperature, the reaction mixture was washed with saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=3:1 was concentrated under reduced pressure, and the resulting residue was washed with a mixed solvent of diethyl ether and hexane and then collected by filtration to obtain the title compound (73 mg, 0.16 mmol, 81%) as a white solid.

reactant | 5-[[(4-chlorophenyl)sulfonyl](2,5-difluorophenyl)methyl]-4-methylpyridine-2-carboxylic acid | 0.20 mmol, 88 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C=1C(=CC(=NC1)C(=O)O)C)C1=C(C=CC(=C1)F)F | C20H14ClF2NO4S
reactant | methylamine hydrochloride | 0.22 mmol, 15 mg | Cl.CN
reactant | 1-hydroxybenzotriazole | 0.22 mmol, 30 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 0.44 mmol, 0.048 ml | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.22 mmol, 42 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 5-[[(4-Chlorophenyl)sulfonyl](2,5-difluorophenyl)methyl]-N,4-dimethylpyridine-2-carboxamide | 0.16 mmol, 73 mg, 81% | ClC1=CC=C(C=C1)S(=O)(=O)C(C=1C(=CC(=NC1)C(=O)NC)C)C1=C(C=CC(=C1)F)F | C21H17ClF2N2O3S
